US04625047
To a stirred solution of sodium methoxide (24.3 g, 0.45 mole) in ethanol (700 ml) and ethyl acetoacetate (58.6 g, 0.45 mole) was added [2,3-dichloro-4-(2-methylene-1-oxobutyl)phenoxy]acetic acid (60.6 g, 0.20 mole). The reaction mixture was heated at reflux for 21/2 hours, then the solvent was distilled at reduced pressure. The residue was dissolved in water, acidified with hydrochloric acid, extracted into ether, washed with water, extracted into sodium bicarbonate, acidified, extracted into ether, dried over magnesium sulfate, filtered and evaporated in vacuo to give 68 g of [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melts at 170°-172° after recrystallization from nitromethane.

reactant | sodium methoxide | 0.45 mole, 24.3 g | C[O-].[Na+]
reactant | ethyl acetoacetate | 0.45 mole, 58.6 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | [2,3-dichloro-4-(2-methylene-1-oxobutyl)phenoxy]acetic acid | 0.20 mole, 60.6 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C13H12Cl2O4
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 68 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CCC1CC)=O | C16H16Cl2O4
